US09428509B2
2-Chloro-N-cyclopentyl-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
2,4-Dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), cyclopentanamine (1 equiv), sodium tert-butoxide (7.5 equiv), and 1,4-dioxane (0.28 M) were combined in a sealable vessel with a stir bar. The resulting mixture was put under nitrogen atmosphere, sealed, stirred vigorously, and heated at 70° C. After cooling to room temperature, the reaction mixture was loaded directly onto a silica gel column and purified using flash chromatography (Biotage) (0-20% ethyl acetate in hexane) to give the title compound (94% yield) as a yellow solid. MS (ESI) m/z 493.2 [M+1]+.

reactant | 2,4-Dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)Cl | C12H16Cl2IN3OSi
reactant | cyclopentanamine | 1 equiv | C1(CCCC1)N | C5H11N
reactant | sodium tert-butoxide | 7.5 equiv | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 0.28 M | O1CCOCC1 | C4H8O2
product | 2-Chloro-N-cyclopentyl-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 94% yield | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)NC2CCCC2 | C17H26ClIN4OSi
